US04585780
2,3-Dihydroxypyridine (5 g) is suspended in ethylbromoacetate (20 ml) and the mixture heated in a sealed tube for 24 hours at 140° C. The tube is then cooled in solid CO2 and opened. The contents are subjected to rotary evaporation at 50° C. to yield a yellow solid. Recrystallisation of this solid from water yields 1-ethoxycarbonylmethyl-3-hydroxypyrid-2-one as white crystals (5.4 g), m.p. 141°-151° C.; νmax (nujol) 1645, 1720 cm-1 ; δ(d6DMSO), 1.0 (t, 3H), 4.0 (q, 2H), 4.55 (s, 2H), 5.95 (t, 1H), 6.6(d, 1H), 7.05 (d, 1H).

reactant | 2,3-Dihydroxypyridine | 5 g | OC1=NC=CC=C1O | C5H5NO2
reactant | CO2 | C(=O)=O | CO2
reactant | ethylbromoacetate | 20 ml | C(C)OC(CBr)=O | C4H7BrO2
product | 1-ethoxycarbonylmethyl-3-hydroxypyrid-2-one | 5.4 g | C(C)OC(=O)CN1C(C(=CC=C1)O)=O | C9H11NO4
